US07176224B2
A mixture 2-(p-tolyloxy)-3-(4-hydroxyphenyl)-2-methyl-propionic acid ethyl ester (0.030 mmol), toluene-4-sulfonic acid 2-(5-methyl-2-(4-thiophen-2-yl-phenyl)-oxazol-4-yl)ethyl ester (0.030 mmol) (see Ex. 3, Part B) and 325 mesh K2CO3 (0.084 g, 0.60 mmol) in ethanol (2 mL) was heated to reflux for 24 h under N2. Aqueous 5N NaOH (0.5 mL) and additional ethanol (1 mL) was added to the reaction mixture and it was heated at reflux for an additional 2 h. The reaction was cooled and the solvent removed in vacuo. The residue was acidified with aqueous 1 N HCl (5 mL), extracted with water and CH2Cl2 and the organic layer dried by passing it through a Varian Chem Elut 1003 cartridge. The solvent was removed in vacuo to give 2-methyl-3-(4-{2-[5-methyl-2-(4-thiophen-2-yl-phenyl)-oxazol-4-yl]ethoxy}-phenyl)-2-p-tolyloxy-propionic acid. 1H NMR (400 MHz, CDCl3) δ 8.00 (d, 2H, J=8.4 Hz), 7.71 (d, 2H, J=8.4 Hz), 7.42 (dd, 1H, J=3.8, 1.0 Hz), 7.36 (dd, 1H, J=5.0, 1.0 Hz), 7.26–7.25 (m, 1H), 7.18 (d, 2H, J=8.4 Hz), 7.12 (dd, 1H, J=5.0, 3.8 Hz), 7.05 (d, 2H, J=8.4 Hz), 6.81 and 6.81 (d of Abq, 4H, J=8.8 Hz), 4.23 (t, 2H, J=6.2 Hz), 3.23 and 3.12 (d of Abq, 2H, J=14.0 Hz), 3.07 (t, 2H, J=6.2 Hz), 2.43 (s, 3H), 2.28 (s, 3H), 1.39 (s, 3H). IR (KBr) 3450, 1718, 1681, 1509, 1216 cm−1. HRMS (ES+) m/z exact mass calcd for C33H32NO5S 554.2001, found 554.2015.

reactant | 2-(p-tolyloxy)-3-(4-hydroxyphenyl)-2-methyl-propionic acid ethyl ester | 0.030 mmol | C(C)OC(C(CC1=CC=C(C=C1)O)(C)OC1=CC=C(C=C1)C)=O | C19H22O4
reactant | toluene-4-sulfonic acid 2-(5-methyl-2-(4-thiophen-2-yl-phenyl)-oxazol-4-yl)ethyl ester | 0.030 mmol | CC1=C(N=C(O1)C1=CC=C(C=C1)C=1SC=CC1)CCOS(=O)(=O)C1=CC=C(C=C1)C | C23H21NO4S2
reactant | K2CO3 | 0.60 mmol, 0.084 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaOH | 5N, 0.5 mL | [OH-].[Na+]
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 2-methyl-3-(4-{2-[5-methyl-2-(4-thiophen-2-yl-phenyl)-oxazol-4-yl]ethoxy}-phenyl)-2-p-tolyloxy-propionic acid | CC(C(=O)O)(CC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1=CC=C(C=C1)C=1SC=CC1)OC1=CC=C(C=C1)C | C33H31NO5S
